US04567201
A mixture of 2-chloro-4-cyanophenol (2.15 g), 3-bromo-1-chloropropane (2.3 g), dimethylformamide (3 ml) and potassium carbonate (1.5 g) was heated at 100° C. for one hour. After the inorganic salt was filtered off, the solvent was distilled off and the residue was dissolved in chloroform. The solution was chromatographed on a column of silica gel (80 g) and eluted with a solution of petroleum ether-ethyl acetate (10:1) to give 3.06 g of 3-(2-chloro-4-cyanophenoxy)propyl chloride as a colorless oil.

reactant | 2-chloro-4-cyanophenol | 2.15 g | ClC1=C(C=CC(=C1)C#N)O | C7H4ClNO
reactant | 3-bromo-1-chloropropane | 2.3 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-(2-chloro-4-cyanophenoxy)propyl chloride | 3.06 g | ClC1=C(OCCCCl)C=CC(=C1)C#N | C10H9Cl2NO
